US04147528
Treatment of 2.93 g (10 mmole) of ethyl 1-(4-chlorophenyl)-1,6-dihydro-4-methyl-6-oxopyrimidine-5-carboxylate prepared as in Example 1 with either 20 ml of concentrated hydrochloric acid or a mixture of 10 ml of concentrated hydrochloric acid and 10 ml of acetic acid at reflux for 5 hours gives, after methylene chloride extraction and ethanol recrystallization, a 40-45% yield of 1-(4-chlorophenyl)-1,6-dihydro-4-methyl-6-oxopyrimidine, m.p. 177°-9° C.

reactant | ethyl 1-(4-chlorophenyl)-1,6-dihydro-4-methyl-6-oxopyrimidine-5-carboxylate | 10 mmole, 2.93 g | ClC1=CC=C(C=C1)N1C=NC(=C(C1=O)C(=O)OCC)C | C14H13ClN2O3
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 1-(4-chlorophenyl)-1,6-dihydro-4-methyl-6-oxopyrimidine | 40-45% yield | ClC1=CC=C(C=C1)N1C=NC(=CC1=O)C | C11H9ClN2O
